US05952363
N-Chlorosuccinimide (7.05 g, 52.6 mmol) was added to a solution of (3R,4R)-3,4-dibenzyloxypyrrolidine (15 g, 52.8 mmol) in diethyl ether (300 ml). The resulting mixture was stirred at room temperature for 3 hours under a nitrogen atmosphere. Addition of toluene (250 ml) and water (200 ml), washing of the organic phase with 2 M sodium thiosufate (200 ml) and water (200 ml), drying with magnesium sulphate gave a solution of (3R,4R)-3,4-dibenzyloxy-1-chloropyrrolidine in toluene. The compound is unstable and was used without further purification.

reactant | N-Chlorosuccinimide | 52.6 mmol, 7.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (3R,4R)-3,4-dibenzyloxypyrrolidine | 52.8 mmol, 15 g | C(C1=CC=CC=C1)O[C@@H]1CNC[C@H]1OCC1=CC=CC=C1 | C18H21NO2
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | 200 ml | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | (3R,4R)-3,4-dibenzyloxy-1-chloropyrrolidine | C(C1=CC=CC=C1)O[C@@H]1CN(C[C@H]1OCC1=CC=CC=C1)Cl | C18H20ClNO2
